US08809514B2
Preparation of methyl 5-(benzyloxycarbonylamino)-3-oxopentanoate (I)
3-(Benzyloxycarbonylamino)propanoic acid [N-Cbz-β-alanine] (5.0 g, 22.4 mmoles) is suspended in methylene chloride (100 mL) and 2,2-dimethyl-1,3-dioxane-4,6-dione (3.3 g, 22.9 mmoles), triethylamine (8.5 mL, 61.0 mmoles) and diethyl cyanophosphonate (3.7 mL, 22.8 mmoles) are added. All solids dissolve quickly, and the reaction quickly turns yellow. The solution is stirred for 16 hours at ambient temperature. The reaction mixture is then diluted with methylene chloride (100 mL) and carefully washed three times with aqueous hydrochloric acid (3 M, 50 mL each), three times with water (50 mL each) and once with saturated aqueous sodium chloride (50 mL). The reaction mixture is then dried over anhydrous sodium sulfate, filtered and evaporated to an orange syrup. The syrup is dissolved in anhydrous methanol (200 mL) and heated to reflux for 16 hours. The methanol is evaporated and the crude product purified on silica gel (150 mL bed volume) eluting with methylene chloride (500 mL) then methylene chloride:methanol (99.5:0.5 [v/v], 500 mL then 99:1 [v/v], 1000 mL). Fractions containing pure product by thin layer chromatography are pooled and evaporated to a pale yellow oil. The oil is dried well in vacuo. The yield is 4.5 g (68%).

reactant | 3-(Benzyloxycarbonylamino)propanoic acid | 22.4 mmoles, 5.0 g | C(C1=CC=CC=C1)OC(=O)NCCC(=O)O | C11H13NO4
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 22.9 mmoles, 3.3 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | triethylamine | 61.0 mmoles, 8.5 mL | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 22.8 mmoles, 3.7 mL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | methyl 5-(benzyloxycarbonylamino)-3-oxopentanoate | C(C1=CC=CC=C1)OC(=O)NCCC(CC(=O)OC)=O | C14H17NO5
